US08455658B2
The solution of 3-chloro-2,4-pentanedione (670 mg, 4.88 mmol), N-carbamothioyl-2,6-difluorobenzamide (1.08 g, 5.0 mmol) and K2CO3 (0.8 g) in 20 mL of MeOH was stirred at reflux for 5 hours. The reaction was cooled to room temperature, and concentrated under reduced pressure. The residue was taken up with EtOAc. The solution was washed with water, dried (Na2SO4), filtered and concentrated. Purification on silica gel gave N-(5-Acetyl-4-methylthiazol-2-yl)-2,6-difluorobenzamide (1.0 g, 71%) as a white solid.

reactant | 3-chloro-2,4-pentanedione | 4.88 mmol, 670 mg | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | N-carbamothioyl-2,6-difluorobenzamide | 5.0 mmol, 1.08 g | C(N)(=S)NC(C1=C(C=CC=C1F)F)=O | C8H6F2N2OS
reactant | K2CO3 | 0.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | N-(5-Acetyl-4-methylthiazol-2-yl)-2,6-difluorobenzamide | 1.0 g, 71% | C(C)(=O)C1=C(N=C(S1)NC(C1=C(C=CC=C1F)F)=O)C | C13H10F2N2O2S
